US05409943
(a) N-[3-(2-Fluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea
A mixture of 2-amino-3-(2-fluorobenzyloxy)pyridine (1.98 g, 0.0091 mol), 4chlorophenyl isothiocyanate (1.83 g, 0.011 mol) and toluene (10 ml) was refluxed for 3.5 hours, cooled and treated with diethyl ether to induce crystallisation of the product. Yield 1.98 g (56%), m.p. 141°-143

reactant | 2-amino-3-(2-fluorobenzyloxy)pyridine | 0.0091 mol, 1.98 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)F | C12H11FN2O
reactant | 4chlorophenyl isothiocyanate | 0.011 mol, 1.83 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[3-(2-Fluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | FC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C=CC=C1 | C19H15ClFN3OS
